Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
shaking
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
PCP: 
Name: ___. 
Location: ___ 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 
Email: ___ 

CC:shaking

___ male with a 3 hour episode on the day of admission with 
bilateral thigh and knee pain.  Soon after this began, he 
developed shaking in his arms that he attributes to anxiety.  He 
felt weak and needed to sit down.  He then called his wife bc he 
was very concerned with these symptoms.  His wife immediately 
took him to the ER.  On ROS he admits to substernal, 
non-radiating, slight chest pressure intermitantly during the 
event.  This was not associated with nausea, vomiting, 
diaphoresis, lightheadedness or dizziness.  He did take all his 
medicaiton in the morning and the event happened before eating 
breakfast. He did not check his blood sugar or his blood 
pressure during the event. By the time he arrived to the ER his 
symptoms had resolved. Currently he is asymptomatic. He denies 
SOB, current chest pain, new weakness, numbness, LH, dizziness.

In ER: (Triage Vitals:97.8 98 124/69 16 100) d dimer elevated. 
Cr 2.3. V/Q not able to be completed until tomorrow. Had an EKG 
that revealed new atrial fibrillation.

ROS:  
-Constitutional: [x]WNL []Weight loss []Fatigue/Malaise []Fever 
[]Chills/Rigors []Nightweats []Anorexia  
-Eyes: []WNL []Blurry Vision []Diplopia []Loss of Vision 
[]Photophobia  
-ENT: [x]WNL []Dry Mouth []Oral ulcers []Bleeding gums/nose 
[]Tinnitus []Sinus pain []Sore throat  
-Cardiac: []WNL [x]Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE  
-Respiratory: [x]WNL []SOB []Pleuritic pain []Hemoptysis []Cough 
 
-Gastrointestinal: [x]WNL []Nausea []Vomiting []Abdominal pain 
[]Abdominal Swelling []Diarrhea []Constipation []Hematemesis 
[]Hematochezia []Melena  
-Heme/Lymph: []WNL []Bleeding []Bruising []Lymphadenopathy  
-GU: [x]WNL []Incontinence/Retention []Dysuria []Hematuria 
[]Discharge []Menorrhagia  
-Skin: [x]WNL []Rash []Pruritus  
-Endocrine: []WNL []Change in skin/hair []Loss of energy 
[]Heat/Cold intolerance  
-Musculoskeletal: [x]WNL []Myalgias []Arthralgias []Back pain  
-Neurological: [x ]WNL []Numbness of extremities []Weakness of 
extremities []Parasthesias []Dizziness/Lightheaded []Vertigo 
[]Confusion []Headache  

 
Past Medical History:
AR,MR 
hypertension 
CAD
DM type II - now taking insulin.

 
Social History:
___
Family History:
no FHx of DM
 
Physical Exam:
VS: as above
Gen: Well appearing and appears much younger than stated age, no 
acute distress, awake, alert, appropriate, and oriented x 3 
Skin: warm to touch, no apparent rashes. 
HEENT: No conjunctival pallor, no scleral jaundice,  OP clear, 
no cervical LAD 
CV:  RRR II/VI SEM at ___. S1, S2. could no appreciate a 
diastolic murmur. 
Lungs: clear to auscultation 
Abd: soft, NT, normal BS 
Ext: No C/C. Trace ___ edema
Neuro:  CN ___ intact, strength ___ diffusely, reflexes 2+ at 
patella and brachial, sensation grossly intact, L>r dysmetria 
with FNF and rapid alternating movements, gait exam deferred

 
Pertinent Results:
Admission labs:
CBC 12.7 > 12.8/38.7 < 334
Chem panel: 134 | 100 | 36 < 150
            6.1 | 22 | 2.3
Troponin 0.01 --> 0.03 --> 0.03
DDimer 1148

CXR
IMPRESSION: Cardiomegaly without evidence of congestive heart 
failure.  
Bibasilar atelectasis. 

(poor quality ECG) AF at 49, normal axis/intervals. no ST 
changes. 

V/Q scan:
Ventilation images obtained with Tc-99m aerosol in 8 views 
demonstrate mild
central clumping of tracer, and blunting of the posterior 
costophrenic angles bilaterally.
 
Perfusion images in the same 8 views also show blunting of the 
posterior
costophrenic angles bilaterally.
 
Chest x-ray dated ___ shows cardiomegaly without pleural 
effusion or
consolidation.
 
The above findings are consistent with a low likelihood of 
pulmonary embolus.
 
IMPRESSION:
 
1. Low likelihood of pulmonary embolus. 2. Matched blunting of 
posterior
costophrenic angles bilaterally may represent atelectasis or 
small pleural
effusions.

Discharge labs:
CBC 11> 12.5/36.5 < 291
Chem panel: 137 | 100 | 25 < 154'
            4.7 | 26 | 1.___ with non-specific symptoms of bilateral leg pain and 
"shaking" along with chest pain.  On admission with bradycardia 
with ?atrial fibrillation on EKG.

* "Shaking" - On the day following his admission, he did show 
evidence of L>R dysmetria and given his atrial fibrillation 
above, there was concern for cerebellar stroke.  The neurology 
consult service was called and felt his tremors were at baseline 
and that he likely has essential tremor.  Of note, he did have a 
L wrist fracture many years ago, that likely accounts for his 
worsening movement on the L side.  They did not feel that 
further imaging was warranted.  His shaking episode resolved and 
did not recur.  He was sent home with ___ services for home ___ 
eval and home safety evaluation.

* Bradycardia - He was on both diltiazem and metoprolol on 
admission and given bradycardia, diltiazem was discontinued.  
His bradycardia improved and he was discharged on metoprolol 
alone.

* Paroxysmal atrial fibrillation - This was seen on an isolated 
EKG.  He remained on telemetry during his hospitalization and 
had no further episodes of AF and stayed in NSR.  Low likelihood 
of PE on his V/Q scan, TSH was wnl.  No ___ edema to suggest DVT. 
 He remained on metoprolol on discharged.  This was communicated 
to his PMD.  Anticoagulation was not started in the hospital and 
he remained on aspirin during his admission and on discharge.  
He will need to follow up with his primary care provider.

* Chest pain - on the morning after admission, he explained that 
his pain was intermittent and when pressure was applied to his 
chest, this recreated his pain.  He likely had a component of 
musculoskeletal pain prior to admission.  His repeat EKGs were 
not suggestive of ischemia.  His troponins remained stable at 
0.03, which were likely elevated in the setting of his renal 
failure.  He had no further episodes of chest pain.  

* Coronary artery disease, native vessel - metoprolol, aspirin 
and statin were continued.

* Diabetes mellitus, type II - Glyburide and metoformin were 
discontinued based on his kidney disease.  There were not 
restarted on discharge.  He was instructed to continue his 
current insulin sliding scale at home and follow up with his PMD 
at the ___ Center.

* Hypothyroidism - TSH was wnl.  Levothyroxine was continued.

* Leukocytosis - Had no fevers or evidence of infection.  ___ 
returned to ___ discharge.  Will need monitoring as an 
outpatient.

* Chronic kidney disease, Stage IV - Worse on admission, but 
after IVF improved to baseline of 1.7. 

* Hypertension, benign - Diltiazem was stopped given his 
bradycardia.  Amlodipine 10mg daily was started during his 
hospitalization.  He was given a prescription for this and 
encouraged to continue this medication.  Metoprolol was also 
continued. 
 
Medications on Admission:
ASPIRIN - 325 MG TABLET (ENTERIC COATED) - ONE EVERY DAY
DILTIAZEM HCL - 240 mg Capsule,Degradable Cnt Release - 1
Capsule(s) by mouth once a day
GLYBURIDE -  (Prescribed by Other Provider) - 1.25 mg Tablet - 1
Tablet(s) by mouth twice a day
METFORMIN - 500 mg Tablet - 2 Tablet(s) by mouth qAM
METOPROLOL TARTRATE - 100 mg Tablet - 1 Tablet(s) by mouth twice
a day
SIMVASTATIN - 40 mg Tablet - 1 Tablet(s) by mouth once a day
SYNTHROID - 75MCG Tablet - ONE EVERY DAY

 
Discharge Medications:
1. insulin
Please continue your previous insulin regimen prior to admission
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
4. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Leg pain

Atrial fibrillation
Diabetes mellitus
Coronary artery disease
Hypothyroidism
Chronic kidney disease

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital with shaking and leg pain that 
resolved before you came to the floor.  You did have some 
shaking on initial exam and the neurologists came to evaluate 
you.  They did not feel that the shaking you have is worse than 
baseline.  They will see you in follow up here for further 
evaluation.

Please return to the emergency room if you experience worsening 
chest pain, shortness of breath, lightheadedness or dizziness.

Medication changes: 
1. Diltiazem was discontinued
2. Metformin was discontinued
3. Amlodipine 10mg daily was started for blood pressure
4. Glyburide was discontinued
 
Followup Instructions:
___